US07109340B2
5 mg of Pd/C 10% and 38 mg of di-tert-butyl dicarbonate are added to a solution of 50 mg of ethyl 6-(5-nitropyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate in 6 ml of methanol. After stirring for 12 hours at ambient temperature under 3 bar of hydrogen, the reaction medium is filtered through celite and then concentrated under reduced pressure. The reaction crude obtained is purified by flash chromatography (SiO2, CH2Cl2/MeOH gradient 75/25 to 25/75). 20 mg of ethyl 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate are thus obtained in the form of a white powder, the characteristics of which are as follows:

reactant | di-tert-butyl dicarbonate | 38 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 6-(5-nitropyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate | 50 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)OCC | C14H15N5O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | ethyl 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate | 20 mg | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)OCC | C19H25N5O4
